US08497281B2
Step 2: 1-benzyl-4-methyl-9H-indeno[2,1-b]pyridinium bromide
A mixture of 4-methyl-9H-indeno[2,1-b]pyridine (0.64 g) and benzyl bromide (0.42 mL) in acetone (5 mL) is stirred at reflux temperature for 4 h. After cooling to room temperature, the precipitate is separated by filtration, washed with little diethyl ether, and dried to give the title compound as a beige solid. Yield: 0.93 g (75% of theory); LC (method 1): tR=2.49 min; Mass spectrum (ESI+): m/z=272 [M-Br]+.

reactant | 4-methyl-9H-indeno[2,1-b]pyridine | 0.64 g | CC1=C2C(=NC=C1)CC=1C=CC=CC12 | C13H11N
reactant | benzyl bromide | 0.42 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 1-benzyl-4-methyl-9H-indeno[2,1-b]pyridinium bromide | [Br-].C(C1=CC=CC=C1)[N+]1=C2C(=C(C=C1)C)C=1C=CC=CC1C2 | InChI=1S/C20H18N.BrH/c1-15-11-12-21(14-16-7-3-2-4-8-16)19-13-17-9-5-6-10-18(17)20(15)19;/h2-12H,13-14H2,1H3;1H/q+1;/p-1
